US07384934B2
(S)-2-Methyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine
Combine (S)-2-methyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine (300.0 mg, 0.86 mmol), formaldehyde (76.4 μL, 0.94 mmol, 37% in water), and 1,2-dichloroethane (28.0 ml) and stir the mixture at ambient temperature for 5 minutes and add sodium triacetoxyborohydride (272.1 mg, 1.28 mmol). After stirring for 30 minutes at ambient temperature, quench the reaction with saturated sodium bicarbonate. Remove the organic portion, extract the aqueous with dichloromethane and combine, wash (brine), dry (sodium sulfate), and reduce the extracts to residue. Purify the residue on silica gel using dichloromethane/methanol (90:10) to give 260.4 mg (89%) of a yellow foam: mp=60° C., dec; mass spectrum (ion spray): m/z=365.2 (M+1).

reactant | (S)-2-methyl-11-[3-(2-methoxy-ethyl)-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 0.86 mmol, 300.0 mg | CC1=CC2=C(NC3=C(N=C2N2C[C@@H](NCC2)CCOC)C=CC=C3)C=C1 | C21H26N4O
reactant | formaldehyde | 0.94 mmol, 76.4 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 1.28 mmol, 272.1 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 28.0 ml | ClCCCl | C2H4Cl2
product | (S)-2-Methyl-11-[3-(2-methoxy-ethyl)-4-methyl-piperazin-1-yl]-5H-dibenzo[b,e][1,4]diazepine | 260.4 mg, 89% | CC1=CC2=C(NC3=C(N=C2N2C[C@@H](N(CC2)C)CCOC)C=CC=C3)C=C1 | C22H28N4O
